US05763450
A mixture of 500 mg of 5-(3,4-dimethoxy-5-iodo-benzyl)pyrimidine-2,4-diamine, 1.53 g of styrene, 1.46 g of triethylamine and 31 mg of palladium-(II) acetate in 25 ml of dioxan is held at reflux under argon for 14 hrs. The mixture is poured on to ice-water, adjusted to pH 5 to 7 with 3N aqueous hydrochloric acid and extracted with methylene chloride. The organic phase is dried over magnesium sulphate, concentrated and the residue is chromatographed on silica gel with methylene chloride/methanol 97:3. 252 mg (53%) of 5-(3,4-dimethoxy-5-styryl-benzyl)pyrimidine-2,4-diamine are isolated as an orange solid. M.p.226°.

reactant | 5-(3,4-dimethoxy-5-iodo-benzyl)pyrimidine-2,4-diamine | 500 mg | COC=1C=C(CC=2C(=NC(=NC2)N)N)C=C(C1OC)I | C13H15IN4O2
reactant | styrene | 1.53 g | C=CC1=CC=CC=C1 | C8H8
reactant | triethylamine | 1.46 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | dioxan | 25 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-(II) acetate | 31 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-(3,4-dimethoxy-5-styryl-benzyl)pyrimidine-2,4-diamine | 252 mg, 53% | COC=1C=C(CC=2C(=NC(=NC2)N)N)C=C(C1OC)C=CC1=CC=CC=C1 | C21H22N4O2
